Held coils on the ~70 V rail through an IRLR3110Z DPAK: (a) 100 % hold of a 14.5 ohm coil for 3 s (a "continuous duty" coil on the F103 branch), (b) FreeWPC-style PWM hold (SOL_DUTY_50 = 4 ms on / 4 ms off, 125 Hz) of an AE-26-1200 (10.8 ohm, 25 mH) with the S3M tie-back carrying the freewheel current; dissipation, diode current and junction-temperature estimate with the as-routed DPAK copper (tab pad only, no pour: datasheet minimum-footprint Rth(j-a) 110 C/W - board audit in docs/THERMAL_AND_PROTECTION.md)
.include ../models.lib
V50 v50 0 70
* ---- (a) 100 % hold, 14.5 ohm / 30 mH
VLa la 0 PULSE(0 4.6 1m 20n 20n 3 10)
RLa la aa 40
Rga aa ga 100
Rpda ga 0 10k
Vdra outa outad 0
XQa outad ga 0 IRLR3110Z
Vca v50 v50a 0
Lca outa cla 30m
Rca cla v50a 14.5
Dfa outa v50 DS3M
* ---- (b) PWM hold 50 %: 4 ms on / 4 ms off, 10.8 ohm / 25 mH
VLb lb 0 PULSE(0 4.6 1m 20n 20n 4m 8m)
RLb lb ab 40
Rgb ab gb 100
Rpdb gb 0 10k
Vdrb outb outbd 0
XQb outbd gb 0 IRLR3110Z
Vcb v50 v50b 0
Lcb outb clb 25m
Rcb clb v50b 10.8
Vdb outb dbk 0
Dfb dbk v50 DS3M
.tran 20u 3s
.control
run
let ia = i(Vca)
let ifa = i(Vdra)
let pa = v(outad)*ifa
let ib = i(Vcb)
let ifb = i(Vdrb)
let pb = v(outbd)*ifb
let idb = i(Vdb)
meas tran ia_hold AVG ia from=2 to=3
meas tran pa_hold AVG pa from=2 to=3
meas tran vds_hold AVG v(outad) from=2 to=3
meas tran ib_avg AVG ib from=2 to=3
meas tran ib_max MAX ib from=2 to=3
meas tran ib_min MIN ib from=2 to=3
meas tran pb_avg AVG pb from=2 to=3
meas tran idb_avg AVG idb from=2 to=3
meas tran idb_max MAX idb from=2 to=3
let tj_rise_hold = pa_hold * 110
let tj_rise_pwm = pb_avg * 110
print tj_rise_hold
print tj_rise_pwm
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/sol_hold.csv ia ib idb v(outb)
.endc
.end
